US08871945B2
The process comprises the preparation of Rufinamide by reacting 2,6-difluorobenzyl chloride and sodium azide in the presence of DMSO to obtain 2,6-difluoro benzyl azide, which is then treated with propiolic acid to give carboxylic acid intermediate which on further reaction with thionyl chloride to give corresponding acyl chloride. The acyl chloride intermediate is further reacted with methanolic ammonia to yield Rufinamide.

reactant | Rufinamide | C=1C=C(C(=C(C1)F)CN2C=C(N=N2)C(=O)N)F | C10H8F2N4O
reactant | 2,6-difluorobenzyl chloride | FC1=C(CCl)C(=CC=C1)F | C7H5ClF2
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
solvent | DMSO | CS(=O)C | C2H6OS
product | 2,6-difluoro benzyl azide | FC1=C(CN=[N+]=[N-])C(=CC=C1)F | C7H5F2N3
